US09382255B2
6-[(6-Bromo-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-5-methoxy-1,3-benzothiazol-2(3H)-one
25 mg (108 μmol) 6-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (CAS-No: 784150-41-0) were transformed in analogy to example 1 using 6-amino-5-methoxy-1,3-benzothiazol-2(3H)-one to give after working up and purification 11.8 mg (27%) of the title compound.

reactant | 6-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 108 μmol, 25 mg | BrC1=CC2=C(N=CN=C2Cl)N1 | C6H3BrClN3
reactant | 6-amino-5-methoxy-1,3-benzothiazol-2(3H)-one | NC1=CC2=C(NC(S2)=O)C=C1OC | C8H8N2O2S
product | 6-[(6-Bromo-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-5-methoxy-1,3-benzothiazol-2(3H)-one | BrC1=CC2=C(N=CN=C2NC2=CC3=C(NC(S3)=O)C=C2OC)N1 | C14H10BrN5O2S
